US08871788B2
(7-Bromo-3,4-dihydro-1H-isoquinolin-2-yl)-(tetrahydro-pyran-4-yl)-methanone
To a solution of tetrahydropyran-4-carboxylic acid 130 mg (1 mmol) in DCM (5 mL) was added 7-bromo-3,4-dihydro-1H-isoquinoline-2-carbaldehyde (200 mg, 1 mmol), followed by TPTU (326 mg) and HOBt (148 mg). The solution was cooled to ice-water bath. To this solution was added ethyl diisopropylamine (0.4 mL). The yellow solution was allowed to stir under nitrogen overnight. LC/MS showed the reaction was complete. The reaction was quenched by addition of sodium bicarbonate solution (5 mL) and DCM (30 mL). The two layers were separated, and the aqueous layer was extracted with DCM (20 mL×2). The combined DCM extracts were washed with sodium bicarbonate (20 mL), and brine (15 mL×2), dried (anhydrous potassium carbonate), filtered, and concentrated in vacuo. The crude product was purified on a silica gel column, eluted with 5-10% MeOH in DCM to get a yellow semi-solid. This was taken in DCM and ether (5 mL) and treated with 0.5 mL of 1N HCl in ether. The white powder was collected and dried to get 0.35 g (100% yield) of the titled compound as a yellow solid.

reactant | tetrahydropyran-4-carboxylic acid | 1 mmol, 130 mg | O1CCC(CC1)C(=O)O | C6H10O3
reactant | 7-bromo-3,4-dihydro-1H-isoquinoline-2-carbaldehyde | 1 mmol, 200 mg | BrC1=CC=C2CCN(CC2=C1)C=O | C10H10BrNO
reactant | TPTU | 326 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C=CC=CC1=O
reactant | HOBt | 148 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethyl diisopropylamine | 0.4 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | HCl | 1N, 0.5 mL | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | ether | 5 mL | CCOCC | C4H10O
product | (7-Bromo-3,4-dihydro-1H-isoquinolin-2-yl)-(tetrahydro-pyran-4-yl)-methanone | 0.35 g, 100% yield | BrC1=CC=C2CCN(CC2=C1)C(=O)C1CCOCC1 | C15H18BrNO2
